US05952350
2-(4-methoxyphenyl)-6-methoxy-1-tetralone
2.31 g (7.7 mmol) of 2-(4-methoxyphenyl)-4-(3-Methoxyphenyl)butyric acid was dissolved in 30 mL of CH2Cl2 and cooled to 0° C. To this solution was added 3.4 ml (23.1 mmol) of trifluoroacetic acid, the reaction was allowed to proceed for 30 minutes. The reaction was quenched by pouring into an aqueous solution of NaHCO3. The organic layer was separated, washed twice with NaHCO3 solution washed twice with brine, dried with Na2SO4, and evaporated to a solid. This yielded 1.5 g of the title compound as a tan amorphous solid.

reactant | 2-(4-methoxyphenyl)-4-(3-Methoxyphenyl)butyric acid | 7.7 mmol, 2.31 g | COC1=CC=C(C=C1)C(C(=O)O)CCC1=CC(=CC=C1)OC | C18H20O4
reactant | trifluoroacetic acid | 23.1 mmol, 3.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-methoxyphenyl)-6-methoxy-1-tetralone | COC1=CC=C(C=C1)C1C(C2=CC=C(C=C2CC1)OC)=O | C18H18O3
